US05399291
Preparation of 4-(5-Butoxy-2,2,3,3,4,4-hexafluoropentoxy)benzoic acid
Subsequently, the methyl 4-(5-butoxy-2,2,3,3,4,4-hexafluoropentoxy)benzoate was heated at reflux with 20 ml of 10% aqueous KOH for 2 hours. The resulting hydrolyzed carboxylate salt reaction product mixture was then cooled to room temperature and was acidified with concentrated (98%) sulfuric acid. The desired fluorinated benzoic acid precipitate was filtered from the aqueous solution and was washed twice with 10 ml aliquots of deionized water. The product was dried in a vacuum oven at 60° C. and a pressure of 0.2 mm Hg (0.2 torr). A total of 9.5 g of the desired 4-(5-butoxy-2,2,3,3,4,4-hexafluoropentoxy)benzoic acid was recovered.

reactant | methyl 4-(5-butoxy-2,2,3,3,4,4-hexafluoropentoxy)benzoate | C(CCC)OCC(C(C(COC1=CC=C(C(=O)OC)C=C1)(F)F)(F)F)(F)F | C17H20F6O4
solvent | KOH | 20 ml | [OH-].[K+]
product | 4-(5-Butoxy-2,2,3,3,4,4-hexafluoropentoxy)benzoic acid | C(CCC)OCC(C(C(COC1=CC=C(C(=O)O)C=C1)(F)F)(F)F)(F)F | C16H18F6O4
